US05849769
The titled compound was obtained starting from 4-chloro-2-fluorophenol which was converted to 6-chloro-3-ethoxy-2-fluorobenzaldehyde according to procedure in Example 362 of WO 93/03022. This aldehyde was converted to 6-chloro-3-ethoxy-2-fluorostyrene according to procedure in Example 375 of WO 93/03022. Styrene (30.7 g, 153 mmole) was dissolved in dichloroethane (400 mL) and CuJ (50 mg) and Pd(OAc)2 (50 mg) added. The temperature of this solution was raised to reflux and diethyl azodicarboxylate (32.2 mL, 306 mmole) in 100 mL of dichloroethane was dropped into it during a period of 2 hrs. The reflux was continued for 1 hr. The reaction mixture was evaporated and the residue purified by chromatography on silica gel column EtOAc/Hexane 2:98-5:95 as eluent to give 4.36 g (10%) of pure (+,-)-cis-2-(6-chloro-3-ethoxy-2-fluorophenyl)-cyclopropylcarboxylic acid ethyl ester which was then hydrolyzed in KOH (2.56 g)--EtOH/H2O (45 mL/5mL) at 100° C. for 24 hrs. The reaction mixture was extracted twice with hexane, made acidic with conc. HCl and extracted with diethyl ether which was dried over Na2SO4 and evaporated to give 3.87 g (98%) of pure acid.

reactant | 4-chloro-2-fluorophenol | ClC1=CC(=C(C=C1)O)F | C6H4ClFO
reactant | 6-chloro-3-ethoxy-2-fluorobenzaldehyde | ClC1=CC=C(C(=C1C=O)F)OCC | C9H8ClFO2
reactant | 6-chloro-3-ethoxy-2-fluorostyrene | ClC1=CC=C(C(=C1C=C)F)OCC | C10H10ClFO
reactant | Styrene | 153 mmole, 30.7 g | C=CC1=CC=CC=C1 | C8H8
reactant | diethyl azodicarboxylate | 306 mmole, 32.2 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | dichloroethane | 400 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
catalyst | Pd(OAc)2 | 50 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (+,-)-cis-2-(6-chloro-3-ethoxy-2-fluorophenyl)-cyclopropylcarboxylic acid ethyl ester | 4.36 g, 10% | C(C)OC(=O)[C@H]1[C@H](C1)C1=C(C(=CC=C1Cl)OCC)F | C14H16ClFO3
